US07524860B2
1-[5-(3-Dimethylamino-pyrrolidin-1-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-3-ethyl-urea
A mixture of 5-(3-dimethylamino-pyrrolidin-1-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine (0.190 g, 0.6 mmol), and NaHMDS (1.4 ml of 1 M solution in THF, 1.4 mmol) in anhydrous THF (100 ml) was stirred at room temperature for 45 minutes. EtNCO (0.5 ml, 6.3 mmol) was added and the resulting reaction mixture was stirred at room temperature overnight. The reaction was quenched with HCl (0.35 ml of 4 M solution in dioxane). Solvent was evaporated and the resultant material was purified by column chromatography on silica gel (1% NEt3, 0-10% MeOH in CH2Cl2 as eluant), followed by trituration in EtOH, to afford the desired compound as a solid. Mp. 248-250° C. MS (APCI+) 395 (M+1).

reactant | 5-(3-dimethylamino-pyrrolidin-1-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | 0.6 mmol, 0.190 g | CN(C1CN(CC1)C1=CC(=CC=2N1N=C(N2)N)C=2C=NC=CC2)C | C17H21N7
reactant | NaHMDS | 1.4 mmol, 1 M, 1.4 ml | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | EtNCO | 6.3 mmol, 0.5 ml | C(C)N=C=O | C3H5NO
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 1-[5-(3-Dimethylamino-pyrrolidin-1-yl)-7-pyridin-3-yl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-3-ethyl-urea | CN(C1CN(CC1)C1=CC(=CC=2N1N=C(N2)NC(=O)NCC)C=2C=NC=CC2)C | C20H26N8O
